US08372866B2
b) 2-(3,4-dibenzyloxyphenyl)-3-hydroxy-6-[(1-iminoethyl)amino]-4H-1-benzopyran-4-one
2-(3,4-dibenzyloxyphenyl)-3-hydroxy-6-amino-4H-1-benzopyran-4-one (1.9 g; 3.78 mmol) was suspended in acetonitrile (40 mL) and cooled at 0° C. HCl was bubbled into the solution upon saturation. The reaction was then stirred for 5 days at r.t. Upon completion, H2O (20 mL) was added and the acetonitrile removed under vacuum. The precipitate was filtered off and dried to afford the titled compound as a bright yellow solid. Yield: 92%. TLC (9/1 Chloroform/Methanol) Rf: 0.2. 1H-NMR (d6-DMSO): 11.61 (br s, 1H); 9.62 (s, 1H); 8.65 (s, 1H); 8.01 (d, 1H), 7.90 (d, 2H); 7.78 (d, 1H); 7.35 (d, 2H); 7.65 (dt, 2H); 6.93 (d, 1H); 3.35 (s, 3H)

reactant | 2-(3,4-dibenzyloxyphenyl)-3-hydroxy-6-amino-4H-1-benzopyran-4-one | 3.78 mmol, 1.9 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)C=1OC2=C(C(C1O)=O)C=C(C=C2)N | C29H23NO5
reactant | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 2-(3,4-dibenzyloxyphenyl)-3-hydroxy-6-[(1-iminoethyl)amino]-4H-1-benzopyran-4-one | Yield: 92% | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)C=1OC2=C(C(C1O)=O)C=C(C=C2)NC(C)=N | C31H26N2O5
